US05608056
To a solution of N-methylimidazole (84.0 ml) in tetrahydrofuran (1.25 l) was added dropwise n-butyllithium (1.56N, 500 ml and 1.60N, 120 ml) in hexane keeping the temperature below -65° C. After stirring for 30 minutes, to the mixture was added dropwise a solution of (2S,4R)-1-benzyl-4-(t-butyldimethylsilyloxy)-2-formylpyrrolidine (259 g) in THF (1.25 l) at -65°~-60° C. for 30 minutes. The mixture was stirred at -60°~0° C. for 1.5 hours and at 0°~5° C. for 30 minutes. The reaction mixture was poured into a mixture of cold water (5 l) and ethyl acetate (5 l). The organic layer was separated, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. To the residue was added ethyl acetate (180 ml) and n-hexane (620 ml). The precipitate was collected by filtration to give isomer A of 1-{(4R)-1-benzyl-4-(t-butyldimethylsilyloxy) pyrrolidin-2-yl}-1-[1-methylimidazol-2-yl]methanol (480 g). The filtrate was evaporated in vacuo. The residue was chromatographed on silica gel (2.6 kg, eluent; AcOEt:n-hexan=3:2 to 10:0), and the eluate was evaporated to give isomer B of the same (147.4 g) containing 17% of isomer A, as a solid.

reactant | N-methylimidazole | 84.0 ml | CN1C=NC=C1 | C4H6N2
reactant | n-butyllithium | 1.56N, 500 ml | C(CCC)[Li]
reactant | (2S,4R)-1-benzyl-4-(t-butyldimethylsilyloxy)-2-formylpyrrolidine | 259 g | C(C1=CC=CC=C1)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C=O | C18H29NO2Si
reactant | water | 5 l | O | H2O
solvent | tetrahydrofuran | 1.25 l | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 1.25 l | C1CCOC1 | C4H8O
solvent | ethyl acetate | 5 l | C(C)(=O)OCC | C4H8O2
product | 1-{(4R)-1-benzyl-4-(t-butyldimethylsilyloxy) pyrrolidin-2-yl}-1-[1-methylimidazol-2-yl]methanol | 480 g | C(C1=CC=CC=C1)N1C(C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(O)C=1N(C=CN1)C | C22H35N3O2Si
